US08134001B2
To a solution of 4-bromo-3-fluoroanisole (10 g, 48.7 mmol, Matrix) in tetrahydrofuran (100 mL) at −78° C. was added lithium diisopropyl amine (32.5 mL, 1.8 M in THF, 58.4 mmol) dropwise during a period of 15 min. The mixture was stirred at −78° C. for another 20 mins. Then N,N-dimethyl-formamide (4.53 mL, 58.4 mmol) was added in one portion. The mixture was stirred at −78° C. for 10 min, then quenched with acetic acid (12 g, 194 mmol) and followed by the addition of water (61 mL). The mixture was partitioned between ethyl acetate and water. The organic layer was separated, concentrated. The residue was purified by chromatography (EtOAc:hexanes=1:4) to give 3-bromo-2-fluoro-6-methoxy-benzaldehyde as a yellow solid (Yield: 10 g, 89%)

reactant | 4-bromo-3-fluoroanisole | 48.7 mmol, 10 g | BrC1=C(C=C(C=C1)OC)F | C7H6BrFO
reactant | lithium diisopropyl amine | 58.4 mmol, 1.8 M, 32.5 mL | C(C)(C)NC(C)C.[Li]
reactant | N,N-dimethyl-formamide | 58.4 mmol, 4.53 mL | CN(C=O)C | C3H7NO
reactant | acetic acid | 194 mmol, 12 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 61 mL | O | H2O
product | 3-bromo-2-fluoro-6-methoxy-benzaldehyde | Yield: 10 g, 89% | BrC=1C(=C(C=O)C(=CC1)OC)F | C8H6BrFO2
